US08383827B2
Step 3: Synthesis of 1-(5-bromopyridin-3-yl)-2,2,2-trifluoroethanamine
To N-(1-(5-bromopyridin-3-yl)-2,2,2-trifluoroethyl)-2-methylpropane-2-sulfinamide (1.5 g, 4.18 mmol) in MeOH (8.35 ml) was added HCl 4N in dioxane (2.088 ml, 8.35 mmol) dropwise, and the mixture stirred at room temperature for 16 h. Concentrated, and then the mixture was quenched with saturated NaHCO3 and extracted with EtOAc two times, dried over magnesium sulfate, filtered, concentrated. The title compound was isolated as a light yellow oil used as is for next step. LC-MS (M+1) 257.0, t=1.05 min

reactant | N-(1-(5-bromopyridin-3-yl)-2,2,2-trifluoroethyl)-2-methylpropane-2-sulfinamide | 4.18 mmol, 1.5 g | BrC=1C=C(C=NC1)C(C(F)(F)F)NS(=O)C(C)(C)C | C11H14BrF3N2OS
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 8.35 mmol, 2.088 ml | O1CCOCC1 | C4H8O2
solvent | MeOH | 8.35 ml | CO | CH4O
product | 1-(5-bromopyridin-3-yl)-2,2,2-trifluoroethanamine | BrC=1C=C(C=NC1)C(C(F)(F)F)N | C7H6BrF3N2
